US06723848B2
2 g of palladium catalyst (5% Pd/C, approx. 50% moisture content; Degussa-Hüls; E 101 RW 5%) are added to a solution of 10 g of ethyl 2-acetylaminotetrahydrobenzothiophenecarboxylate in 80 ml of mesitylene and the mixture is heated to 170° under nitrogen. 2 g of ethyl cinnamate are metered in over 30 min and stirring is continued for 21 h. The temperature is then lowered to 100° and 10 ml of pyrrolidine are added. The reaction mixture is stirred for 25 h under nitrogen. The catalyst is then filtered off and rinsed with 60 g of ethanol. The solutions are combined and the solvent is distilled off. The residue is taken up in ethyl acetate and washed twice with 1 N HCl and once with water. After distillation of the solvent and subsequent crystallization from 2-propanol, ethyl 2-aminobenzo[b]thiophene-3-carboxylate is obtained with a yield of 64%.

reactant | ethyl 2-acetylaminotetrahydrobenzothiophenecarboxylate | 10 g | C(C)(=O)NC1(SC=2C(C1)CCCC2)C(=O)OCC | C13H19NO3S
reactant | ethyl cinnamate | 2 g | C(C=CC1=CC=CC=C1)(=O)OCC | C11H12O2
reactant | pyrrolidine | 10 ml | N1CCCC1 | C4H9N
catalyst | palladium | 2 g | [Pd] | Pd
solvent | mesitylene | 80 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
product | ethyl 2-aminobenzo[b]thiophene-3-carboxylate | yield of 64% | NC1=C(C2=C(S1)C=CC=C2)C(=O)OCC | C11H11NO2S
